Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Acute Alcohol Intoxication, Hypotension
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old Male with extensive alcohol dependence presents 
after having been found on park bench severely intoxicated 
without evidence of trauma in sub-freezing conditions. Per the 
EMS run-sheet he was unresponsive but had stable vitals, and was 
able to protect his airway. Patient states he drinks 1.5L of 
vodka daily. On the day of admission he drank a bottle of 
mouthwash and 1L of vodka. He does not recall events prior to 
having been found on the bench, but thinks perhaps he fell at 
some point as his left shoulder is sore. He states his last 
drink was 4pm on the day of admission. 

In the ED, initial VS were T: 96.7 BP: 121/74 HR: 66 RR:14 O2sat 
98%RA. Initial EtOH was 588. UA was positive for a UTI and he 
received ciprofloxacin 500mg PO x1. The initial ED plan was to 
observe the patient, however he subsequently had intermittent 
hyotension in the ______ which responded to IV Hydration; he 
received a total of 3L NS and banana bag x1. He also received 
KCL, 2g magnesium IV, and valium 5mg PO x1.
 
Past Medical History:
Alcohol Dependence
History of severe withdrawals with Delerium Tremens/Seizures
Bipolar Disorder
Anxiety Disorder
Peripheral Neuropathy
 
Social History:
___
Family History:
Non-Contributory
 
Physical Exam:
REVIEW OF SYSTEMS
        GEN: - Fevers, - Chills, - Weight Loss, - Weight Gain
        EYES: - Photophobia, - Visual Changes
        HEENT: - Oral/Gum Bleeding
        CARDIAC: - Chest Pain, - Palpitations, - Edema
        GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, 
- Constipation, - Hematochezia, - Melena
        PULM: - Dyspnea, - Cough, - Hemoptysis
        HEME: - Bleeding, - Lymphadenopathy
        GU: - Dysuria, - Hematuria, - Incontinence
        SKIN: - Rash, - Ulcers
        ENDO: - Heat/Cold Intolerance, - Polyuria, - Polydypsia
        MSK: - Myalgia, - Arthralgia, - Back Pain
        NEURO: - Weakness, - Vertigo, - Headache, + Neuropathy
        VASC: - Claudication, - Raynauds

PHYSICAL EXAM:

        VS: Tmax 100.8, Tcurr 99.6, BP 140/80 , HR 101, RR 16, 
SAO2 97%
        GENERAL: Disheveled, mildly tremulous
        Pain: ___
        CRANIAL: Atruamatic, Normocephalic
        NECK: - Bruits
        ENT: Moist, - Oropharynx Lesions, poor dentition
        OPHTHO: PERRLA, EOMI
        PUL: Clear to Auscultation B/L
        COR: Regular Rate and Rhythm, normal S1/S2, I/VI HSM AT 
LSB
        ABD: Non-Tender/Non-Distended, + Bowel Sounds, - CV 
Angle
Tenderness, - Rebound/Guarding
        EXT: - Cyanosis, - Clubing, - Edema
        NEURO:
                MENTAL STATUS: Alert and Oriented to 
Person/Place/Time 
                CN: CN II-XII normal   
                CEREBELLAR:
                        Finger-nose-finger: WNL
                        Rapid Movement: WNL
                MOTOR:
                        upper: ___ bilateral
                        lower: ___ bilateral
                REFLEXES:
                        Biceps: 2+ bilateral
                        Patellar: 2+ bilateral
                        Ankle: 2+ bilateral

 
Pertinent Results:
___ 07:45AM BLOOD WBC-6.5 RBC-3.14* Hgb-10.3* Hct-30.0* 
MCV-96 MCH-32.8* MCHC-34.4 RDW-15.9* Plt ___
___ 07:20PM BLOOD Neuts-64.0 ___ Monos-4.2 Eos-0.9 
Baso-1.3
___ 07:45AM BLOOD ___ PTT-25.5 ___
___ 07:20PM BLOOD Ret Aut-1.2
___ 07:20PM BLOOD Glucose-121* UreaN-11 Creat-0.6 Na-147* 
K-3.0* Cl-109* HCO3-23 AnGap-18
___ 07:20PM BLOOD Calcium-8.0* Phos-3.0 Mg-1.7 Iron-PND
___ 07:20PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:47PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:47PM URINE Blood-LG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-1 pH-5.0 Leuks-NEG
___ 10:47PM URINE ___ Bacteri-MOD Yeast-NONE 
___ 10:47PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

URINE     Site: CLEAN CATCH      ADDED TO GRAY HOLD ___. 

   URINE CULTURE (Pending): 

___ 7:45 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 

CHEST (PORTABLE AP) Study Date of ___ 10:28 ___ 
Final Report 
HISTORY: Hypotension, to evaluate for pneumonia.  
FINDINGS: No previous images. The heart is within normal limits 
in size, and there is no evidence of vascular congestion, 
pleural effusion or acute 
pneumonia. There is some prominence of the azygos region. This 
could merely reflect the AP portable technique, though the 
possibility of right-sided cardiac failure must be considered. 

CT C-SPINE W/O CONTRAST Study Date of ___ 7:14 ___ 
FINDINGS: The cervical spine maintains a normal alignment 
without fracture or subluxation. The prevertebral soft tissues 
are normal. Degenerative changes are seen involving the cervical 
spine: Facet joint hypertrophy at left C3-C4 and left C5-C6 
resulting in mild narrowing. The visualized lung apices are 
clear.
IMPRESSION: No fracture or subluxation. 

CT HEAD W/O CONTRAST Study Date of ___ 7:13 ___ 
NON-CONTRAST HEAD CT: There is no hemorrhage, hydrocephalus, 
shift of 
normally midline structure or evidence of major vascular 
territorial infarct. The gray-white matter differentiation is 
preserved. 10-mm hypodensity in the left subinsular region is 
most consistent with an old lacunar infarct. The visualized 
paranasal sinuses and mastoid air cells remain normally aerated. 
Fracture of bilateral nasal bones is likely chronic. 
IMPRESSION: No hemorrhage. 
 

 
Brief Hospital Course:
___ with EtOH dependence with acute intoxication and cystitis.

1. Alcohol dependence, Acute Intoxication, Alcohol Withdrawal: 
Patient with history of severe withdrawal including delerium 
tremens and seizures.  His initial ETOH level was close to 600, 
his withdrawal is likely to be long and severe.  He was 
monitored on a Valium CIWA Scale although did not require any 
valium while in ___.  Inpatient detox would be beneficial 
primarily for a anticipated complicated detox.  He was seen by 
the Addicitions specialist who helped to arrange detox and was 
given MVI, thiamine and folate. His vital signs including low 
grade temperature and hypertension are likely due to withdrawal 
symptoms rather than infection given the absence of 
leuckocytosis and negative microbiology workup on time of 
discharge.

2. Septicemia due to Bacterial UTI: Although the patient did not 
have a significant leuckocytosis he was found to have 
bacteriuria and thus was started on treatment with 
Ciprofloxacin.  He will require Ciprofloxacin 500 mg po bid for 
a total of 10 days.  He was also hydrated with normal saline.

3. Hyperglycemia
- Monitor finger-sticks, and consider ISS

4. Mild Malnutrition
- Likely due to alcohol dependence.  Patient was given 
multivitamins, thiamine, and folate.

5. Anemia: patient has a mixed picture of iron deficiency anemia 
and likely a macrocytotic picture in the setting of alcohol 
dependence.
- Continue to monitor given stable hematocrit.

After discussion with the patient and the medical team, all were 
in agreement that Mr. ___ was a suitable candidate 
for discharge.
 
Medications on Admission:
None
 
Discharge Medications:
1. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q12H 
(every 12 hours) for 10 days.  
5. Valium 10 mg Tablet Sig: One (1) Tablet PO q2h for CIWA Scale 
> 10.  
6. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed.  
7. Ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain.  
8. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Alcohol intoxication
.
Secondary Diagnoses: 
EtOH abuse; h/o seizures and DTs per patient  
Bipolar  
Anxiety  
Peripheral neuropathy  

 
Discharge Condition:
Afebrile, stable vital signs, tolerating POs.

 
Discharge Instructions:
You were admitted with alcohol intoxication and also found to 
have a urinary tract infection and dehydration.  You were 
observed overnight, given fluids, and started on a 10 day course 
of antibiotics for the urinary tract infection.
.
1. Please take all medication as prescribed.
2. Please make all medical appointments.
3. Please return to the Emergency Room if you have any 
concerning symptoms.
 
Followup Instructions:
___